US04743601
3-Bromo-N-(2,3-dihydroxypropyl)-2-methyl-4-quinolinamine
Bromine (33.7 g) was added dropwise to a solution of 49 g of N-(2,3-dihydroxypropyl)-2-methyl-4-quinolinamine in 600 ml of acetic acid. After two hours of stirring, the resultant oil was separated by decantation, dissolved in 500 ml of water and the mixture made alkaline (pH=10) with potassium carbonate. The resultant free base solid was filtered and recrystallized from ethanol. The yield was 33 g, mp 140°-141° C.

reactant | Bromine | 33.7 g | BrBr | Br2
reactant | N-(2,3-dihydroxypropyl)-2-methyl-4-quinolinamine | 49 g | OC(CNC1=CC(=NC2=CC=CC=C12)C)CO | C13H16N2O2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-N-(2,3-dihydroxypropyl)-2-methyl-4-quinolinamine | BrC=1C(=NC2=CC=CC=C2C1NCC(CO)O)C | C13H15BrN2O2
